US08558012B2
A 5 ml round-bottomed flask provided with a stirrer was charged with the 2-fluoro-2-[(1S)-1-hydroxy-3-phenyl-2-butenyl]-1,3-benzodithiol 1,1,3,3-tetraoxide (41.2 mg, 0.11 mmol, 91% ee) prepared in Example 11 and MeOH (2.0 ml). The resultant mixture was cooled to 40° C. Samarium(II) iodide/tetrahydrofuran (0.1 M, 6.7 ml) was slowly added dropwise, and the mixture was stirred for 1 hour. Then, a saturated ammonium chloride aqueous solution was added. The aqueous layer was extracted with dichloromethane. A sodium thiosulfate aqueous solution was added to the organic layer, and the organic layer was extracted. Then, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation using an evaporator, and then the product was purified by silica gel column chromatography (dichloromethane:methanol=95:5) to obtain 15.0 mg (81%, 90% ee) of the target (3S)-(E)-4-fluoro-3-hydroxy-1-phenyl-1-butene.

reactant | 2-fluoro-2-[(1S)-1-hydroxy-3-phenyl-2-butenyl]-1,3-benzodithiol 1,1,3,3-tetraoxide | 0.11 mmol, 41.2 mg | FC1(S(C2=C(S1(=O)=O)C=CC=C2)(=O)=O)[C@H](C=C(C)C2=CC=CC=C2)O | C17H15FO5S2
reactant | Samarium(II) iodide tetrahydrofuran | 0.1 M, 6.7 ml | [I-].[Sm+2].[I-].O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | MeOH | 2.0 ml | CO | CH4O
product | (3S)-(E)-4-fluoro-3-hydroxy-1-phenyl-1-butene | FC[C@H](/C=C/C1=CC=CC=C1)O | C10H11FO
